### PR TITLE
[Merged by Bors] - feat: express filter as supremum of principal filter and free filter

### PR DESCRIPTION
**Pull request by plp127**
Prove a filter is free iff it is smaller than the cofinite filter. Prove that every filter decomposes as the disjoint supremum of a principal filter and a free filter.

---

- [x] depends on: #31264

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Filter/Cofinite.lean [hunk 1]
```diff
@@ -276,3 +276,43 @@ lemma Function.update_eventuallyEq [DecidableEq α] (f : α → β) (a : α) (b
...
+A filter is free iff it is smaller than the cofinite filter.
+-/
+theorem le_cofinite_iff_ker (f : Filter α) : f ≤ cofinite ↔ f.ker = ∅ := by
+  rw [le_cofinite_iff_compl_singleton_mem, ker_def, iInter₂_eq_empty_iff]
+  conv =>
+    enter [2, x]
+    equals {x}ᶜ ∈ f =>
+      exact Eq.propIntro (exists_imp.2 fun s => exists_imp.2
+          fun hs hx => f.mem_of_superset hs (by simpa using hx))
+        fun h => ⟨{x}ᶜ, h, by simp⟩
```
Comment (kckennylau) [inline Mathlib/Order/Filter/Cofinite.lean]:
```suggestion
theorem le_cofinite_iff_ker (f : Filter α) : f ≤ cofinite ↔ f.ker = ∅ := by
  rw [le_cofinite_iff_compl_singleton_mem, ker_def, iInter₂_eq_empty_iff]
  refine forall_congr' fun x => ⟨fun h => ⟨{x}ᶜ, h, by simp⟩,
    fun ⟨s, hs, hx⟩ => f.mem_of_superset hs (by simpa using hx)⟩
```

File: Mathlib/Order/Filter/Cofinite.lean [hunk 2]
```diff
@@ -276,3 +276,43 @@ lemma Function.update_eventuallyEq [DecidableEq α] (f : α → β) (a : α) (b
...
+
+/--
+Every filter is the disjoint supremum of a principal filter and a free filter in a unique way.
+-/
+theorem existsUnique_eq_principal_sup_free (f : Filter α) :
+    ∃! p : Set α × Filter α, p.2 ≤ cofinite ∧ Disjoint (𝓟 p.1) p.2 ∧ f = 𝓟 p.1 ⊔ p.2 := by
```
Comment (kckennylau) [inline Mathlib/Order/Filter/Cofinite.lean]: I feel like maybe we can extract some lemmas from this?
1. `f = 𝓟 f.ker ⊔ (f ⊓ 𝓟 f.kerᶜ)`
2. `f ⊓ 𝓟 f.kerᶜ ≤ cofinite`

**Review by kckennylau — APPROVED** [review]

File: Mathlib/Order/Filter/Basic.lean [hunk 3]
```diff
@@ -512,9 +512,6 @@ instance instCoframe : Coframe (Filter α) where
       mem_top_iff_forall, eq_univ_iff_forall, ker, mem_union, mem_sInter, Filter.mem_sets]
     grind
 
-instance : DistribLattice (Filter α) where
```
Comment (plp127) [inline Mathlib/Order/Filter/Basic.lean:515]: this is `inferInstance`

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Review by b-mehta — COMMENTED** [review]
bors merge
